US09289419B2
Synthesis of (R)-2-(5-(difluoromethoxy)-2-fluorophenyl)pyrrolidine hydrochloride
This compound was prepared by the method substantially similar to the preparation of 2,5-difluorophenyl pyrrolidine hydrochloride as mentioned in Example 1 step 5 using 2-bromo-4-(difluoromethoxy)-1-fluorobenzene (J. Med. Chem. 2003, 46, 1016-1030).

reactant | 2,5-difluorophenyl pyrrolidine hydrochloride | Cl.FC1=C(C=C(C=C1)F)N1CCCC1
reactant | 2-bromo-4-(difluoromethoxy)-1-fluorobenzene | BrC1=C(C=CC(=C1)OC(F)F)F | C7H4BrF3O
product | (R)-2-(5-(difluoromethoxy)-2-fluorophenyl)pyrrolidine hydrochloride | Cl.FC(OC=1C=CC(=C(C1)[C@@H]1NCCC1)F)F | InChI=1S/C11H12F3NO.ClH/c12-9-4-3-7(16-11(13)14)6-8(9)10-2-1-5-15-10;/h3-4,6,10-11,15H,1-2,5H2;1H/t10-;/m1./s1
